US04567052
N-[1-(Methoxyacetyloxy)methyl]-3-(2,3-dichlorophenyl)-4-cyanopyrrole
4.5 g of 3-cyano-4-(2,3-dichlorophenyl)pyrrole are dissolved in 50 ml of tetrahydrofuran and to the solution are added 0.65 g of paraformaldehyde, 3.0 ml of triethylamine and 0.5 ml of diazobicyclo[5.4.0]undec-7-ene. The mixture is stirred for 2 hours at room temperature to form a clear solution. With stirring, 2.0 ml of ethoxyacetyl chloride are slowly added dropwise at 5° C. The reaction mixture is kept for 21/2 hours at 0°-5° C. and then filtered. The filtrate is concentrated and the residue is crystallised from ether/petroleum ether to give colourless crystals of the title compound with a melting point of 72°-75° C.

reactant | 3-cyano-4-(2,3-dichlorophenyl)pyrrole | 4.5 g | C(#N)C1=CNC=C1C1=C(C(=CC=C1)Cl)Cl | C11H6Cl2N2
reactant | paraformaldehyde | 0.65 g | C=O | CH2O
reactant | diazobicyclo[5.4.0]undec-7-ene | 0.5 ml | [N+](=[N-])=C1C2CCCC=C2CCCC1 | C11H16N2
reactant | ethoxyacetyl chloride | 2.0 ml | C(C)OCC(=O)Cl | C4H7ClO2
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 3.0 ml | C(C)N(CC)CC | C6H15N
product | N-[1-(Methoxyacetyloxy)methyl]-3-(2,3-dichlorophenyl)-4-cyanopyrrole | COCC(=O)OCN1C=C(C(=C1)C#N)C1=C(C(=CC=C1)Cl)Cl | C15H12Cl2N2O3
